US05434138
1k. H-D-Trp-Ser(tBu)-Tyr(tBu)-OtBu
93.0 g (about 102 mmol) of Fmoc-D-Trp-Ser(tBu)-Tyr(tBu)-OtBu are dissolved in 500 ml of dimethylformamide. 114.5 ml of diethylamine are added to this while stirring, reaction is allowed to take place at room temperature for 10 minutes, and the mixture is concentrated under high vacuum. The residue is triturated 3 times with petroleum ether and twice with diethyl ether. The diethyl ether is removed by distillation and then partition between ethyl acetate and water is carried out. The ethyl acetate is, after drying over Na2SO4, removed by distillation, and the residue is triturated twice with diethyl ether.

reactant | Fmoc-D-Trp-Ser(tBu)-Tyr(tBu)-OtBu | about 102 mmol, 93.0 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C50H60N4O8
reactant | diethylamine | 114.5 ml | C(C)NCC | C4H11N
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | H-D-Trp-Ser(tBu)-Tyr(tBu)-OtBu | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C | C35H50N4O6
